US06057315
2,4,6-Trimethoxybenzoic acid
To a stirred solution of 1,3,5-trimethoxybenzene (10.0 g, 59.4 mmol) in 150 mL of dry THF at 0° C. in nitrogen atmosphere was added 27.3 mL (68.31 mmol) of 2.5 M n-BuLi in hexane dropwise via syringe. The resulting solution was stirred at room temperature overnight. The mixture was cooled to -20° C. and 30 g of dry ice was added. Stirring was continued for 1 hr before hydrolysis with 200 mL of water. The mixture was evaporated under reduced pressure to remove THF. The aqueous phase was extracted with ether, acidified with hydrochloric acid to pH 3 and extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4) and concentrated. The solid residue was washed with ether and dried in vacuo to give 6.7 g of the title compound: mp 152-153° C. dec (lit.: 147° C. dec.; Beilsteins, 10, 1988). 1H NMR (CDCl3): 6.16 (2 H, s), 3.91 (6 H, s), 3.86 (3 H, s).

reactant | 1,3,5-trimethoxybenzene | 59.4 mmol, 10.0 g | COC1=CC(=CC(=C1)OC)OC | C9H12O3
reactant | n-BuLi | 68.31 mmol, 2.5 M, 27.3 mL | [Li]CCCC
reactant | dry ice | 30 g | C(=O)=O | CO2
reactant | water | 200 mL | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2,4,6-Trimethoxybenzoic acid | 6.7 g | COC1=C(C(=O)O)C(=CC(=C1)OC)OC | C10H12O5
